US08735417B2
1-Bromo-3,5-dinitrobenzene (14.77 g, 59.8 mmol) was dissolved in methanol (150 mL) and toluene (374 mL) and a solution of sodium hydrosulfide (10.06 g, 179 mmol) in water (10 mL) and methanol (150 mL) was added dropwise over a period of 60 minutes. The reaction was stirred at 80° C. for 3 hours. The reaction mixture was cooled to room temperature and then extracted 3 times with ethyl acetate. The organic layers were combined, washed with brine, dried with MgSO4, filtered, and concentrated under reduced pressure. The crude material required no further purification to yield 12.93 g (59.6 mmol, 100%) of 3-bromo-5-nitroaniline.

reactant | 1-Bromo-3,5-dinitrobenzene | 59.8 mmol, 14.77 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3BrN2O4
reactant | toluene | 374 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydrosulfide | 179 mmol, 10.06 g | [SH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | 3-bromo-5-nitroaniline | 59.6 mmol, 12.93 g, 100% | BrC=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5BrN2O2
